US09085541B2
Step 1: Synthesis of 1-{4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-phenyl}-ethanol
To a solution of 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzaldehyde (i.e. the product of example S.1, Step 1, 0.50 g) and lithium chloride (53 mg, 1.24 mmol, 1.00 equiv.) in THF (15 mL) was added a solution of methyl magnesium bromide (1.78 mL, 1.4 M in THF/toluene, 2.49 mmol, 2.00 equiv.) at −70° C.

reactant | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzaldehyde | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=O)C=C1)C)C(F)(F)F | C18H12Cl2F3NO2
reactant | lithium chloride | 1.24 mmol, 53 mg, 1.00 equiv. | [Cl-].[Li+]
reactant | methyl magnesium bromide | 2.49 mmol, 1.4 M, 1.78 mL, 2.00 equiv. | C[Mg]Br
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-{4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-phenyl}-ethanol | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=C1)C(C)O)C)C(F)(F)F | C19H16Cl2F3NO2
